US05455362
170 g (1.0 mol) of crystalline 3,4-dihydroxy-2,6,6-trimethyl-2-cyclohexen-1-one were suspended in 500 ml of methylene chloride. First 500 mg (2.9 mol) of p-toluenesulfonic acid were added to the suspension and then 144 g (2.0 mol) of vinyl ethyl ether were run in at room temperature (RT) over the course of 2 hours (h). The mixture was then stirred at RT for 4 h and subsequently 100 ml of 5% strength sodium hydroxide solution were run in. The lower organic phase was separated off, and the aqueous phase was extracted once with 100 ml of methylene chloride. The combined organic phases were washed with 200 ml of water and concentrated in a rotary evaporator. The residue was dried under greatly reduced pressure (oil pump) to give 2,4,6,6-tetramethyl-7,7a-dihydro-6H-benzo[1,3]dioxol-5-one as a yellow oil which was pure by thin-layer chromatography (TLC) and almost pure by gas chromatography (GC).

reactant | 3,4-dihydroxy-2,6,6-trimethyl-2-cyclohexen-1-one | 1.0 mol, 170 g | OC1=C(C(C(CC1O)(C)C)=O)C | C9H14O3
reactant | p-toluenesulfonic acid | 2.9 mol, 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | vinyl ethyl ether | 2.0 mol, 144 g | C(C)OC=C | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 2,4,6,6-tetramethyl-7,7a-dihydro-6H-benzo[1,3]dioxol-5-one | CC1OC=2C(O1)CC(C(C2C)=O)(C)C | C11H16O3
